US07655666B2
2-Acetylamino-5-butyryl-4-trifluoromethyl-benzoic acid methyl ester
To a solution of Dess-Martin periodinane (514 mg, 1.18 mmol) in DCM (2.5 mL) at r.t. was added 2-acetylamino-5-(1-hydroxy-butyl)-4-trifluoromethyl-benzoic acid methyl ester (245 mg, 0.735 mmol). The reaction was stirred at r.t. for 1 h then diluted with EtOAc and poured onto 1:1 mixture water/sat. aq Na2SO3. The organic phase was washed twice with aq KHCO3, brine, dried (Na2SO4) and filtered. The filtrate was concentrated in vacuo to give the title compound (237 mg, 97% yield) as a beige product. ESI-MS: m/z 332 [M+H]+, m/z 330 [M−H]−.

reactant | Dess-Martin periodinane | 1.18 mmol, 514 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-acetylamino-5-(1-hydroxy-butyl)-4-trifluoromethyl-benzoic acid methyl ester | 0.735 mmol, 245 mg | COC(C1=C(C=C(C(=C1)C(CCC)O)C(F)(F)F)NC(C)=O)=O | C15H18F3NO4
reactant | water | O | H2O
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Acetylamino-5-butyryl-4-trifluoromethyl-benzoic acid methyl ester | 237 mg, 97% yield | COC(C1=C(C=C(C(=C1)C(CCC)=O)C(F)(F)F)NC(C)=O)=O | C15H16F3NO4
